US05756790
In 70 ml of ethanol was dissolved 1.06 g (5 mmol) of (S,S)-1,2-diphenylethylenediamine. In a nitrogen atmosphere and at room temperature, 30 ml of an ethanol solution containing 2.32 g (10.5 mmol) of 2-formyl-(2,4,6-trimethylphenyl)-1,3-dioxobutane was added to the solution, which was stirred for 2 hours at room temperature. The reaction mixture was then heated to 50° C. and reaction took place in 2 hours. After the completion of reaction, the solvent was distilled off in vacuum, obtaining a crude product. The crude product was dissolved in dichloromethane/ether/hexane for recrystallization, obtaining 2.28 g (isolation yield 71%) of an optically active ligand (N,N'-bis[3-oxo-2-(2,4,6-trimethylbenzoyl)butylidene]-(1S,2S)-1,2-diphenylethylenediamine) as white crystals. The thus obtained optically active ligand was analyzed by 1H-NMR, IR, and elemental analysis and measured for melting point and specific rotatory power. The results are shown below.

reactant | (S,S)-1,2-diphenylethylenediamine | 5 mmol, 1.06 g | C1(=CC=CC=C1)[C@@H]([C@@H](N)C1=CC=CC=C1)N | C14H16N2
reactant | 2-formyl-(2,4,6-trimethylphenyl)-1,3-dioxobutane | 10.5 mmol, 2.32 g | C(=O)C(C(=O)C1=C(C=C(C=C1C)C)C)C(C)=O | C14H16O3
solvent | ethanol | 70 ml | C(C)O | C2H6O
solvent | dichloromethane ether hexane | ClCCl.CCOCC.CCCCCC
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | N,N'-bis[3-oxo-2-(2,4,6-trimethylbenzoyl)butylidene]-(1S,2S)-1,2-diphenylethylenediamine | yield 71% | O=C(C(C=N[C@H]([C@@H](N=CC(C(C)=O)C(C1=C(C=C(C=C1C)C)C)=O)C1=CC=CC=C1)C1=CC=CC=C1)C(C1=C(C=C(C=C1C)C)C)=O)C | C42H44N2O4
